US04276295
In an open flask a mixture consisting of 600 mg of methyl 2-amino-5-ethoxycarbonyl-3,5-dimethylbenzoate and 850 ml of N,N-diphenylformamidine was heated to 200° C. with occasional swirling. The temperature of the reaction mixture was maintained at around 200° C. for 1.5 hours. After cooling, the mixture was taken up in ethyl acetate, and the ethyl acetate extract was washed successively with dilute hydrochloric acid and water, and dried over sodium sulfate. The solvent was removed by evaporation. Chromatography on silica gel column and recrystallization from ethanol/water yielded 556 mg (71.9% of theory) of 6-ethoxycarbonyl-5,7-dimethyl-3-phenyl-4(3H)-quinazolinone melting at 102°-103° C. 1H NMR: (CDCl3) 1.43 (t, 3H), 2.48 (s, 3H), 2.83 (s, 3H), 4.48 (q, 2H), 7.30-7.90 (m, 6H), 8.14 (s, 1H).

reactant | methyl 2-amino-5-ethoxycarbonyl-3,5-dimethylbenzoate | 600 mg | NC=1C(C(=O)OC)=CC(CC1C)(C)C(=O)OCC | C13H19NO4
reactant | N,N-diphenylformamidine | 850 ml | C1(=CC=CC=C1)N(C=N)C1=CC=CC=C1 | C13H12N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-ethoxycarbonyl-5,7-dimethyl-3-phenyl-4(3H)-quinazolinone | 556 mg, 71.9% | C(C)OC(=O)C=1C(=C2C(N(C=NC2=CC1C)C1=CC=CC=C1)=O)C | C19H18N2O3
